US08242116B2
2-Bromo-6-[(E)-2-methoxyvinyl]pyridine
To a suspension of (methoxymethyl)triphenylphosphonium chloride (7.37 g, 21.5 mmol) in THF (100 mL) at −10° C. was added LDA (1.8M in THF/hexane/ethylbenzene, 11.94 mL, 21.5 mmol). The resulting red suspension was stirred at −10° C. for 1 h. To this was added a solution of 6-bromopyridine-2-carboxaldehyde (2.0 g, 10.8 mmol) in THF (60 mL). The resulting colourless suspension was slowly warmed to r.t. over 2.5 h. The reaction mixture was poured into water and extracted with Et2O (3×75 mL). The combined organic phases were washed with brine, dried (MgSO4) and concentrated in vacuo to give a pale yellow oil. Purification by column chromatography (SiO2, 20:1 heptane:EtOAc) gave the title compound (506 mg, 22%) as a yellow oil. δH (CDCl3) 7.61 (1H, d, J 12.6 Hz), 7.37 (1H, t, J 7.7 Hz), 7.16 (1H, dd, J 7.9 and 0.8 Hz), 6.98 (1H, dd, J 7.5 and 0.6 Hz), 5.78 (1H, d, J 12.6 Hz), 3.73 (3H, s). LCMS (ES+) 215.97 (M+H)+, RT 3.50 minutes (Method 1).

reactant | (methoxymethyl)triphenylphosphonium chloride | 21.5 mmol, 7.37 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LDA | 21.5 mmol, 1.8M, 11.94 mL | [Li+].CC(C)[N-]C(C)C
reactant | 6-bromopyridine-2-carboxaldehyde | 10.8 mmol, 2.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-Bromo-6-[(E)-2-methoxyvinyl]pyridine | 506 mg, 22% | BrC1=NC(=CC=C1)\C=C\OC | C8H8BrNO
